US05763359
2. Preparation of 1-Ethyl-5-methyl-4-nitro-3-(trifluoromethyl)pyrazole
A mixture of 30 mL of concentrated sulfuric acid and 30 mL of concentrated nitric acid was added slowly with stirring at 0° C. to a solution of 18.9 g (106 mmol) of 1-ethyl-5-methyl-3-(trifluoromethyl)pyrazole in 70 mL of concentrated sulfuric acid. When the addition was complete, the mixture was allowed to warm to ambient temperature and stir for 72 hours. It was then poured slowly onto 500 g of ice. The resultant mixture was extracted twice with 100 mL portions of dichloromethane. The combined extracts were dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 20.4 g (86 percent of theory) of the title compound as a yellow oil.

reactant | nitric acid | 30 mL | [N+](=O)(O)[O-] | HNO3
reactant | 1-ethyl-5-methyl-3-(trifluoromethyl)pyrazole | 106 mmol, 18.9 g | C(C)N1N=C(C=C1C)C(F)(F)F | C7H9F3N2
solvent | sulfuric acid | 70 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 1-Ethyl-5-methyl-4-nitro-3-(trifluoromethyl)pyrazole | C(C)N1N=C(C(=C1C)[N+](=O)[O-])C(F)(F)F | C7H8F3N3O2
